data/oMe_Silver.jsonl
{"reaction_id": "NR-336_1-CC_2-c1ccccc1_3-C","level": "medium","name": "Robinson-Gabriel Synthesis","reactants_smiles": ["C(=O)(NC([H])(c1ccccc1)C(=O)C)CC"],"products_smiles": ["CCc1nc(c1ccccc1)c(C)o1"],"conditions": "Acid (e.g., H-OTs, H2SO4)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(NC([H])(c1ccccc1)C(=[OH+])C)CC","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the adjacent carbon, making it more susceptible to nucleophilic attack by the nearby amide nitrogen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCC1=[NH+]C(c1ccccc1)C(O)(C)O1","step_weight": 0,"rationale": "The amide nitrogen attacks the activated carbonyl carbon intramolecularly, favored by proximity and ring closure, forming a five-membered oxazolinium intermediate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CCC1=NC(c1ccccc1)C([OH2+])(C)O1","step_weight": 0,"rationale": "Proton transfer to the hydroxyl group converts it into a better leaving group (water), facilitated by the acidic medium."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CCc1nc(c1ccccc1)c(C)o1","step_weight": 0,"rationale": "Loss of water generates a conjugated aromatic oxazole ring, driven by the stability of the aromatic system and the good leaving ability of water under acidic conditions."}],"description": "Under acidic conditions, the amide carbonyl is activated toward intramolecular cyclization. Protonation increases electrophilicity, enabling nucleophilic attack by the amide nitrogen to form an oxazole ring. Subsequent proton transfers and water elimination yield the aromatic heterocycle."}
{"reaction_id": "NR-122_1-[N+](=O)[O-]_2-c1ccc([N+](=O)[O-])cc1_3-c1ccc(Cl)cc1_4-c1ccc(N(C)C)cc1","name": "Knoevenagel Condensation","level": "medium","reactants_smiles": ["C(=O)(c1ccc(Cl)cc1)c1ccc(N(C)C)cc1","C([N+](=O)[O-])c1ccc([N+](=O)[O-])cc1"],"products_smiles": ["C(=C([N+](=O)[O-])c1ccc([N+](=O)[O-])cc1)(c1ccc(Cl)cc1)c1ccc(N(C)C)cc1"],"conditions": "C1CCNCC1","mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=[N+]1CCCCC1)(c1ccc(Cl)cc1)c1ccc(N(C)C)cc1","rationale": "Piperidine attacks the carbonyl carbon, forming an iminium ion; the nitrogen lone pair facilitates electrophilic activation by increasing carbonyl carbon's partial positive charge through resonance and inductive effects."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH-]([N+](=O)[O-])c1ccc([N+](=O)[O-])cc1","rationale": "The basic nitrogen abstracts an acidic α-proton from [N+](=O)[O-]–c1ccc([N+](=O)[O-])cc1 methylene, stabilized by resonance with adjacent electron-withdrawing groups, generating a nucleophilic carbanion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(N1CCCCC1)(c1ccc(Cl)cc1)c1ccc(N(C)C)cc1)([N+](=O)[O-])c1ccc([N+](=O)[O-])cc1","rationale": "The resonance-stabilized carbanion attacks the iminium carbon, favored by strong electrophilicity from the positively charged nitrogen and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C(N1CCCCC1)(c1ccc(Cl)cc1)c1ccc(N(C)C)cc1)([N+](=O)[O-])c1ccc([N+](=O)[O-])cc1","rationale": "Proton transfer regenerates the neutral amine and positions the intermediate for elimination, driven by the stability of the conjugated alkene product."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C([N+](=O)[O-])c1ccc([N+](=O)[O-])cc1)(c1ccc(Cl)cc1)c1ccc(N(C)C)cc1","rationale": "Elimination of piperidine occurs as the leaving group is stabilized by its basicity and the formation of a conjugated C=C bond provides thermodynamic driving force."}],"description": "In the piperidine-catalyzed Knoevenagel condensation, the amine activates the carbonyl via iminium formation, while also deprotonating the active methylene compound to generate a nucleophile. Nucleophilic addition to the activated carbonyl is followed by proton transfers and elimination to yield the conjugated alkene."}
